US04432972
A suspension of (6-phthalimidohexyl)phosphonic acid (2.34 g., 7.52 mmole) in dry benzene (10 ml.) is treated with phosphorus pentachloride (3.30 g., 15.9 mmole) and stirred at room temperature under argon for 45 minutes. The mixture is then refluxed for 15 minutes, cooled and evaporated to dryness (0.5 mm. Hg). The residue is taken up in dry tetrahydrofuran (10 ml.), cooled in an ice bath and treated dropwise with a solution of benzyl alcohol (0.81 g., 7.5 mmole) and triethylamine (1.05 ml., 7.59 mmole) in dry tetrahydrofuran (5 ml.) over a period of 20 minutes. The mixture is allowed to warm to room temperature, stirred for 30 minuted and then treated with a slight molar excess of L-phenylalanyl-L-leucine, phenylmethyl ester, hydrochloride salt. The resulting suspension is cooled in an ice-bath and treated dropwise with a solution of triethylamine (4.5 ml.) in tetrahydrofuran (8 ml.). The mixture is warmed to room temperature, stirred for 1.5 hours, diluted with ethyl acetate, filtered and evaporated. The residue is taken up in ethyl acetate and washed successively with 5% potassium bisulfate, saturated sodium bicarbonate, saturated sodium chloride, dried (Na2SO4), and evaporated. The residue is purified by flash chromatography on silica gel (100 g.) to give N-[N-[(phenylmethoxy)(6-phthalimidohexyl)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester.

reactant | (6-phthalimidohexyl)phosphonic acid | 7.52 mmole, 2.34 g | C1(C=2C(C(N1CCCCCCP(O)(O)=O)=O)=CC=CC2)=O | C14H18NO5P
reactant | phosphorus pentachloride | 15.9 mmole, 3.30 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | benzyl alcohol | 7.5 mmole, 0.81 g | C(C1=CC=CC=C1)O | C7H8O
reactant | L-phenylalanyl-L-leucine, phenylmethyl ester, hydrochloride salt | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 7.59 mmole, 1.05 ml | C(C)N(CC)CC | C6H15N
product | N-[N-[(phenylmethoxy)(6-phthalimidohexyl)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester | C1(=CC=CC=C1)COP(=O)(N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C43H50N3O7P
